US09260427B2
To boron trifluoride diethyl etherate (33.3 μl, 0.27 mmol) was added a mixture of acetamide (763 mg, 12.9 mmol) and (S)-2-(4-(heptyloxy)phenyl)-2-oxoethyl 4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoate (159 mg, 0.26 mmol). The reaction mixture was stirred at 140° C. for 1 h. The reaction mixture was allowed to cool to room temperature, diluted with EA (15 mL) and extracted with NaHCO3 (3×15 mL) and brine (15 mL). The combined organics were dried over MgSO4, filtered and concentrated. The residue was recrystallized from Et2O (5 mL), filtered and rinsed with Et2O. The filtrate was concentrated to afford 55 mg (16%) of (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(4-(4-(heptyloxy)phenyl)oxazol-2-yl)phenyl)propanoate as an orange oil. LCMS-ESI (m/z) calculated for C37H44N2O5: 596.8. found 597.0 [M+H]+, tR=3.11 min. (Method 4).

reactant | boron trifluoride diethyl etherate | 0.27 mmol, 33.3 μl | B(F)(F)F.CCOCC
reactant | acetamide | 12.9 mmol, 763 mg | C(C)(=O)N | C2H5NO
reactant | (S)-2-(4-(heptyloxy)phenyl)-2-oxoethyl 4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoate | 0.26 mmol, 159 mg | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C(=O)OCC(=O)C3=CC=C(C=C3)OCCCCCCC)C=C2)C(=O)OC)C=C1 | C37H45NO7
solvent | EA | 15 mL | CC(OCC)=O | C4H8O2
product | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(4-(4-(heptyloxy)phenyl)oxazol-2-yl)phenyl)propanoate | 55 mg, 16% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C=2OC=C(N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C37H44N2O5
